US04792208
N-Methyl-N-2-[2-(hydroxyethoxy)ethoxy]ethylaniline
A mixture of freshly distilled N-methylaniline (116 g, 1.1 mol), potassium carbonate (175 g, 1.25 mol), sodium iodide (4 g, 0.025 mol), 2-[2-(2-chloroethoxy)ethoxy]ethanol (168 g, 1 mol), and 900 mL of butanol was heated at reflux for 72 hours under nitrogen with vigorous stirring. After cooling and filtration the butanol was evaporated at reduced pressure to leave a tan oil. The oil was fractionally distilled in vacuo, yielding 150 g (63%) as a colorless oil, bp 190°-191° C. (0.13 mm).

reactant | N-methylaniline | 1.1 mol, 116 g | CNC1=CC=CC=C1 | C7H9N
reactant | potassium carbonate | 1.25 mol, 175 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.025 mol, 4 g | [I-].[Na+]
reactant | 2-[2-(2-chloroethoxy)ethoxy]ethanol | 1 mol, 168 g | ClCCOCCOCCO | C6H13ClO3
solvent | butanol | 900 mL | C(CCC)O | C4H10O
product | N-Methyl-N-2-[2-(hydroxyethoxy)ethoxy]ethylaniline | CN(C1=CC=CC=C1)CCOCCOCCO | C13H21NO3
